US07514470B2
A. 2-(Trifluoromethyl)-4-[(3,3,3-trifluoropropyl)amino]benzonitrile
A mixture of 4-fluoro-2-(trifluoromethyl)benzonitrile (0.158 g, 0.84 mmol), (3,3,3-trifluoropropyl)amine hydrochloride (0.125 g, 0.84 mmol) and DIEA (0.326 g, 2.52 mmol) in 1.5 mL of DMSO was heated in a microwave at 200° C. for 20 min. Upon cooling, the mixture was partitioned between Et2O and 0.1N HCl. The organic phase was washed with 0.1N HCl (×2) and brine, dried over Na2SO4 and concentrated. The residue was purified by silica gel chromatography (10-80% EtOAc-hexanes gradient) and the product crystallized from Et2O-hexanes to give 0.144 g (61% yield) of the title compound: 1H NMR (400 MHz, CDCl3) δ 7.60 (d, J=8.6 Hz, 1H), 6.87 (d, J=2.4 Hz, 1H), 6.71 (dd, J=8.6, 2.4 Hz, 1H), 4.56 (bs, NH), 3.53 (q, J=6.5 Hz, 2H), 2.51-2.40 (m, 2H).

reactant | 4-fluoro-2-(trifluoromethyl)benzonitrile | 0.84 mmol, 0.158 g | FC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3F4N
reactant | (3,3,3-trifluoropropyl)amine hydrochloride | 0.84 mmol, 0.125 g | Cl.FC(CCN)(F)F
reactant | DIEA | 2.52 mmol, 0.326 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
product | 2-(Trifluoromethyl)-4-[(3,3,3-trifluoropropyl)amino]benzonitrile | 0.144 g, 61% yield | FC(C1=C(C#N)C=CC(=C1)NCCC(F)(F)F)(F)F | C11H8F6N2
